data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1708,1889,[CH3:17][NH:18][C:19](=[O:20])[CH-:21][O+:22]=[C:23]([CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:23]([CH3:24])([C:25](=[O:26])[O:27][CH3:28])[O:22][CH:21]2[C:19]([NH:18][CH3:17])=[O:20],water,298.15,12.38566003277039,-85.80714951803674
2679,2977,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][O:28][C:29](=[O:30])[C-:31]([C:32]#[N:33])[N+:34]#[C:35][C:36]([CH3:37])=[O:38]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:31]([C:29]([O:28][CH3:27])=[O:30])([C:32]#[N:33])[N:34]=[C:35]2[C:36]([CH3:37])=[O:38],water,298.15,14.456237533731832,-48.53434574291183
31,35,[CH3:10][C:11]([CH3:12])=[O+:13][NH-:14].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([F:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:11]([CH3:10])([CH3:12])[O:13][NH:14]2,water,298.15,13.035463990655394,-54.928038463755776
3528,4026,[CH3:10][C:11]#[N+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:11]([CH3:10])=[N:12][N:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,15.557284848282109,-30.1919185313132
4215,4821,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C:11](=[O+:12][CH-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C:20]([CH3:21])=[O:22]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[O:12][C:11]1([C:9]([O:8][CH3:7])=[O:10])[C:20]([CH3:21])=[O:22],water,298.15,11.432782779129658,-26.80524847805817
2828,3143,[CH3:18][O:19][C:20](=[O:21])[C:22](=[NH+:23][CH-:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[C:31](=[O:32])[O:33][CH3:34].[F:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][C:11]([Br:12])([Br:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[F:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([C:11]([Br:12])([Br:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([O:19][CH3:18])=[O:21])([C:31](=[O:32])[O:33][CH3:34])[NH:23][CH:24]2[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,14.456188812516718,-31.116321117908782
201,218,[CH2:1]=[CH:2][C:3]([CH3:4])=[O:5].[N:6]#[C:7][c:8]1[o:9][c:10](=[O:11])[c-:12](-[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[o+:19]1>>[CH2:1]1[CH:2]([C:3]([CH3:4])=[O:5])[C:12]2([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[C:10](=[O:11])[O:9][C:8]1([C:7]#[N:6])[O:19]2,water,298.15,7.784114324186446,-28.40833717334753
3184,3594,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]([C:8]#[N:9])=[N+:10]([CH3:11])[CH-:12][C:13](=[O:14])[O:15][CH3:16]>>[CH2:1]1[CH2:2][CH:12]([C:13](=[O:14])[O:15][CH3:16])[N:10]([CH3:11])[C:7]1([C:5]([NH:4][CH3:3])=[O:6])[C:8]#[N:9],water,298.15,20.62667998704936,-33.825742570882866
3047,3412,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C-:10]([CH3:11])[N+:12]#[C:13][C:14]#[N:15]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:10]([CH3:9])([CH3:11])[N:12]=[C:13]2[C:14]#[N:15],water,298.15,4.740156125021668,-40.11853893592448
2075,2302,[CH3:14][NH:15][C:16](=[O:17])[C-:18]([NH+:19]=[C:20]([CH3:21])[C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:20]([CH3:21])([C:22](=[O:23])[O:24][CH3:25])[NH:19][C:18]3([C:16]([NH:15][CH3:14])=[O:17])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,15.318104476394373,-40.35506479481318
910,984,[CH3:12][O:13][C:14](=[O:15])[C-:16]([C:17]#[N:18])[O+:19]=[C:20]([C:21]#[N:22])[C:23]#[N:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([O:13][CH3:12])=[O:15])([C:17]#[N:18])[O:19][C:20]2([C:21]#[N:22])[C:23]#[N:24],water,298.15,4.206747229229487,-48.83769342976411
2993,3345,[CH3:10][N-:11][N+:12]#[N:13].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:11]([CH3:10])[N:12]=[N:13]1,water,298.15,34.80860001797907,-4.194213315331576
